US05789416
Preparation of N-benzyloxycarbonyl-4-aminopyran
A mixture of 4-pyranylcarboxylic acid (2.28 gm, 20 mmol), diphenylphosphorylazide (4.31 ml, 20 mmol), triethylamine (2.78 ml, 20 mmol) in dioxane (40 ml) was heated in a 100° C. oil bath under dry nitrogen for 1 hour. Benzyl alcohol (2.7 ml, 26 mmol) was added, and heating was continued at 100° C. for 22 hours. The mixture was cooled, filtered from a white precipitate and concentrated. The residue was dissolved in 2N HCl and extracted twice with EtOAc. The extracts were washed with water, sodium bicarbonate, brine and then dried over MgSO4, and concentrated to an oil which solidified upon standing. The oil was chromatographed (30% to 60% EtOAc/Hex) to give 1.85 g of a white solid (40%).

reactant | 4-pyranylcarboxylic acid | 20 mmol, 2.28 gm | O1CC=C(C=C1)C(=O)O | C6H6O3
reactant | diphenylphosphorylazide | 20 mmol, 4.31 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 20 mmol, 2.78 ml | C(C)N(CC)CC | C6H15N
reactant | Benzyl alcohol | 26 mmol, 2.7 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | N-benzyloxycarbonyl-4-aminopyran | 1.85 g, 40% | C(C1=CC=CC=C1)OC(=O)NC1=CCOC=C1 | C13H13NO3
